US08168658B2
To a solution of methyl 2-[4-({[2-[(tert-butoxycarbonyl)amino]-5-(3-thienyl)phenyl]amino}carbonyl)phenyl]-3-{[(methylamino)carbonyl]-amino}propanoate (420 mg, 0.76 mmol) in THF (4 mL) and MeOH (1.5 mL) was added KOH (1N, 0.91 mL, 0.91 mmol). After stirring at room temperature for 1 h, the mixture was diluted with 1 M citric acid and extracted with EtOAc. The organic layer was washed with water and brine, dried (MgSO4), and concentrated to yield 2-[4-({[2-[(tert-butoxycarbonyl)amino]-5-(3-thienyl)phenyl]amino}carbonyl)-phenyl]-3-{[(methylamino)carbonyl]amino}propanoic acid as an off-white powder. MS (ESI) calcd [M+H]+ 539.2, found 539.1.

reactant | methyl 2-[4-({[2-[(tert-butoxycarbonyl)amino]-5-(3-thienyl)phenyl]amino}carbonyl)phenyl]-3-{[(methylamino)carbonyl]-amino}propanoate | 0.76 mmol, 420 mg | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C1=CSC=C1)NC(=O)C1=CC=C(C=C1)C(C(=O)OC)CNC(=O)NC | C28H32N4O6S
reactant | KOH | 0.91 mmol, 1N, 0.91 mL | [OH-].[K+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | citric acid | 1 M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 2-[4-({[2-[(tert-butoxycarbonyl)amino]-5-(3-thienyl)phenyl]amino}carbonyl)-phenyl]-3-{[(methylamino)carbonyl]amino}propanoic acid | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C1=CSC=C1)NC(=O)C1=CC=C(C=C1)C(C(=O)O)CNC(=O)NC | C27H30N4O6S
